US09108939B2
F: 1-(2-Amino-2-methylpropyl)-3-(2-fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-propylbenzyl)piperidin-4-yl)methyl)phenyl)urea
1,1,1,3,3,3-Hexafluoro-2-(4-(hydroxymethyl)-3-propylphenyl)propan-2-ol (0.474 mmol, 150 mg) was dissolved in dichloromethane (5 mL) and triethylamine (1.423 mmol, 144 mg) added. The mixture was cooled to 0° C. before the addition of methanesulfonyl chloride (0.611 mmol, 70.0 mg). The mixture was stirred at 0° C. for 90 min. The reaction mixture was diluted with dichloromethane (50 mL) and washed with water (2×10 mL). The organic phase was dried over magnesium sulfate, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in acetonitrile (4 mL) and 1-(2-amino-2-methylpropyl)-3-(2-fluoro-4-(piperidin-4-ylmethyl)phenyl)urea (0.341 mmol, 110 mg) was added followed by potassium carbonate (1.023 mmol, 141 mg). The mixture was heated to reflux for 16 hours. The mixture was cooled, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by HPLC and treated with strong cation exchange column chromatography to afford the title compound (12 mg).

reactant | 1,1,1,3,3,3-Hexafluoro-2-(4-(hydroxymethyl)-3-propylphenyl)propan-2-ol | 0.474 mmol, 150 mg | FC(C(C(F)(F)F)(O)C1=CC(=C(C=C1)CO)CCC)(F)F | C13H14F6O2
reactant | triethylamine | 1.423 mmol, 144 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.611 mmol, 70.0 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(2-amino-2-methylpropyl)-3-(2-fluoro-4-(piperidin-4-ylmethyl)phenyl)urea | 0.341 mmol, 110 mg | NC(CNC(=O)NC1=C(C=C(C=C1)CC1CCNCC1)F)(C)C | C17H27FN4O
reactant | potassium carbonate | 1.023 mmol, 141 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(2-Amino-2-methylpropyl)-3-(2-fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-propylbenzyl)piperidin-4-yl)methyl)phenyl)urea | 12 mg | NC(CNC(=O)NC1=C(C=C(C=C1)CC1CCN(CC1)CC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC)F)(C)C | C30H39F7N4O2
